US05932695
Methyl 4-[4-(1-hydroxyethyl)-2-methoxy-5-nitrophenoxy]butyrate (5.04 g) from above was stirred with lithium hydroxide monohydrate in methanol using conventional protocols. 4-[4-(1-Hydroxyethyl)-2-methoxy-5-nitrophenoxy]butyric acid was obtained as an amorphous yellow solid (4.0 g, 83%). 1H NMR (CDCl3) δ1.34 (3H, d, J=11 Hz, MeCOH), 2.03 (2H, m, CCH2C), 2.38 (2H, t, J=7.3 Hz, CH2CO), 3.81 (3H, s, OMe), 3.96 (2H, t, J=7.4 Hz, CH2O), 4.13 (2H, brs, OH), 5.38 (1H, q, J=10.8 Hz, CHOH), 7.19 (1H, s, aromatic, and 7.43 (1H, s, aromatic).

reactant | Methyl 4-[4-(1-hydroxyethyl)-2-methoxy-5-nitrophenoxy]butyrate | 5.04 g | OC(C)C1=CC(=C(OCCCC(=O)OC)C=C1[N+](=O)[O-])OC | C14H19NO7
reactant | lithium hydroxide monohydrate | O.[OH-].[Li+]
solvent | methanol | CO | CH4O
product | 4-[4-(1-Hydroxyethyl)-2-methoxy-5-nitrophenoxy]butyric acid | OC(C)C1=CC(=C(OCCCC(=O)O)C=C1[N+](=O)[O-])OC | C13H17NO7
